US04337256
1-(1-Ethylpropyl)isoquinoline and N-hydroxymethyl dichloroacetamide were reacted in the same way as in step (b) of Example 18 to afford 1-(1-ethylpropyl)-5-dichloroacetylaminomethylisoquinoline. The product was successively reacted in the same way as in steps (c), (d), (e) and (f) of Example 18 to afford 1-(1-ethylpropyl)-isoquinoline-5-acetonitrile. The product was treated in the same way as in Example 3 to afford 1-(1-ethylpropyl)-isoquinoline-5-acetic acid as an oil. The hydrochloride of the product was in the form of colorless prisms having a melting point of 107° to 109° C.

reactant | 1-(1-Ethylpropyl)isoquinoline | C(C)C(CC)C1=NC=CC2=CC=CC=C12 | C14H17N
reactant | N-hydroxymethyl dichloroacetamide | OCNC(C(Cl)Cl)=O | C3H5Cl2NO2
product | 1-(1-ethylpropyl)-5-dichloroacetylaminomethylisoquinoline | C(C)C(CC)C1=NC=CC2=C(C=CC=C12)CNC(C(Cl)Cl)=O | C17H20Cl2N2O
